US05466610
To make the succinyl CS-045 conjugate of β-phycoerythrin, first 44 mg of CS-045 was reacted for 5 hours at room temperature with 20 mg succinic anhydride in pyridine. Then 4 mg of the resulting succinyl CS-045 was reacted overnight at 4° C. with 2 mg EDC and 1.2 mg N-hydroxysuccinimide to produce CS-045 succinimide. Forty micrograms of this CS-045 succinimide was reacted for 4 hours at room temperature with 500 μg β-phycoerythrin. The final succinyl CS-045 conjugate of β-phycoerythrin was precipitated with 60% final (w/v) saturated ammonium sulfate and resuspended in phosphate buffered saline.

reactant | CS-045 | 44 mg | CC=1C(=C2C(=C(C1O)C)CCC(O2)(C)COC=3C=CC(=CC3)CC4C(=O)NC(=O)S4)C | C24H27NO5S
reactant | succinic anhydride | 20 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | EDC | 2 mg
reactant | N-hydroxysuccinimide | 1.2 mg | ON1C(CCC1=O)=O | C4H5NO3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | CS-045 succinimide | CC=1C(=C2C(=C(C1O)C)CCC(O2)(C)COC=3C=CC(=CC3)CC4C(=O)NC(=O)S4)C.C1(CCC(N1)=O)=O | InChI=1S/C24H27NO5S.C4H5NO2/c1-13-14(2)21-18(15(3)20(13)26)9-10-24(4,30-21)12-29-17-7-5-16(6-8-17)11-19-22(27)25-23(28)31-19;6-3-1-2-4(7)5-3/h5-8,19,26H,9-12H2,1-4H3,(H,25,27,28);1-2H2,(H,5,6,7)
